US07579473B2
To a round bottom flask equipped with a magnetic stir bar was added 3-fluoro-4-[6-methoxy-7-(2-methyl-octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinolin-4-yloxy]-phenylamine (0.78 mg, 1.7 mmol, 1.0 eq.), toluene (10 ml), ethanol (10 ml) and phenyl-acetyl isothiocyanate (1.64 g, 9.2 mmol, 4.5 eq). The reaction mixture was stirred at room temperature overnight. After removal of the solvent the product was purified with a biotage system using an eluent EtOAc and 4% TEA (2 L) then EtOAc, 4% TEA, 1% MeOH (1 L). The solvent was removed to give 1-{3-fluoro-4-[6-methoxy-7-(2-methyl-octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinolin-4-yloxy]-phenyl}-3-phenylacetyl-thiourea (0.5 g, 50% yield). 1H NMR (400 MHz, DMSO): 8.48 (d, 1H), 7.92 (dd, 1H), 7.53 (s, 1H), 7.40 (m, 4H), 7.33 (d, 2H), 7.23 (m, 2H), 6.54 (d, 2H), 6.39 (d, 1H), 4.21 (d, 2H), 4.02 (s, 3H), 3.81 (m, 3H), 2.87 (d, 2H), 2.73 (m, 4H), 2.53 (m, 1H), 2.27 (m, 2H), 2.01 (s, 3H), 1.36 (m, 2H); MS (EI) for C34H35FN4O4S: 615 (M+H+).

reactant | 3-fluoro-4-[6-methoxy-7-(2-methyl-octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinolin-4-yloxy]-phenylamine | 1.7 mmol, 0.78 mg, 1.0 eq. | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OCC1CC2C(CN(C2)C)C1)N | C25H28FN3O3
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | phenyl-acetyl isothiocyanate | 9.2 mmol, 1.64 g, 4.5 eq | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-{3-fluoro-4-[6-methoxy-7-(2-methyl-octahydro-cyclopenta[c]pyrrol-5-ylmethoxy)-quinolin-4-yloxy]-phenyl}-3-phenylacetyl-thiourea | 0.5 g, 50% yield | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OCC1CC2C(CN(C2)C)C1)NC(=S)NC(CC1=CC=CC=C1)=O | C34H35FN4O4S
